US07732461B2
(d) Furo[2,3-c]pyridin-5-ylmethanol
[2-(Trimethylsilyl)furo[2,3-c]pyridin-5-yl]methyl acetate (1.3 g, 4.9 mmol) was dissolved in ethanol (50 ml) and treated with potassium carbonate (0.82 g, 5.9 mmol) and heated under reflux for 18 hrs. The mixture was evaporated to dryness and the residue partitioned between ethyl acetate and water. The organic layer was dried, filtered and evaporated to yield the title compound (0.66 g).

reactant | [2-(Trimethylsilyl)furo[2,3-c]pyridin-5-yl]methyl acetate | 4.9 mmol, 1.3 g | C(C)(=O)OCC=1C=C2C(=CN1)OC(=C2)[Si](C)(C)C | C13H17NO3Si
reactant | potassium carbonate | 5.9 mmol, 0.82 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | Furo[2,3-c]pyridin-5-ylmethanol | 0.66 g | O1C=CC=2C1=CN=C(C2)CO | C8H7NO2
